US08026234B2
Ethyl 3-(cyclohexylamino)-2-hydroxy-2-methylpropanoate:
A mixture of methyl 2-methylglycidate (3.2 mL, 30 mmol) and cyclohexylamine (5.2 mL, 45 mmol) in ethanol (50 mL) was heated at 80° C. for 24 h. The reaction mixture was then concentrated, diluted to EtOAc, washed by NaHCO3, brine and water. Organic layer was dried, concentrated to give a residue which is used for next step without further purification (6.7 g, 97%). [M+H] calc'd for C12H23NO3, 230. found 230.

reactant | methyl 2-methylglycidate | 30 mmol, 3.2 mL | CC1(CO1)C(=O)OC | C5H8O3
reactant | cyclohexylamine | 45 mmol, 5.2 mL | C1(CCCCC1)N | C6H13N
reactant | ethanol | 50 mL | C(C)O | C2H6O
product | Ethyl 3-(cyclohexylamino)-2-hydroxy-2-methylpropanoate | C1(CCCCC1)NCC(C(=O)OCC)(C)O | C12H23NO3
